Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
O=C(OCc1ccccc1)[NH:1][CH2:2][CH2:3][CH2:4][CH2:5][C@@H:6]([C:7]([O:8][CH3:9])=[O:10])[NH:11][C:12](=[O:13])[NH:14][c:15]1[cH:16][c:17]([O:18][CH3:19])[cH:20][c:21]([C:22]([CH3:23])([CH3:24])[CH3:25])[c:26]1[OH:27]>>[NH2:1][CH2:2][CH2:3][CH2:4][CH2:5][C@@H:6]([C:7]([O:8][CH3:9])=[O:10])[NH:11][C:12](=[O:13])[NH:14][c:15]1[cH:16][c:17]([O:18][CH3:19])[cH:20][c:21]([C:22]([CH3:23])([CH3:24])[CH3:25])[c:26]1[OH:27],[O:201]=[C:101]([O:202][CH2:203][c:204]1[cH:205][cH:206][cH:207][cH:208][cH:209]1)[NH:1][CH2:2][CH2:3][CH2:4][CH2:5][C@@H:6]([C:7]([O:8][CH3:9])=[O:10])[NH:11][C:12](=[O:13])[NH:14][c:15]1[cH:16][c:17]([O:18][CH3:19])[cH:20][c:21]([C:22]([CH3:23])([CH3:24])[CH3:25])[c:26]1[OH:27].[BrH:301]>>[NH2:1][CH2:2][CH2:3][CH2:4][CH2:5][C@@H:6]([C:7]([O:8][CH3:9])=[O:10])[NH:11][C:12](=[O:13])[NH:14][c:15]1[cH:16][c:17]([O:18][CH3:19])[cH:20][c:21]([C:22]([CH3:23])([CH3:24])[CH3:25])[c:26]1[OH:27],Cbz_deprotection,"[(201, 301.1), ([301.1, 301], 301), (301, 203), ([203, 202], [202, 101]), ([101, 201], 201), (1, 201.1), ([201.1, 201], 201), (201, [201, 101]), ([101, 1], 1)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Cl[C:1]([CH2:2][O:3][C:4]([CH3:5])=[O:6])=[O:7].[NH2:8][c:9]1[cH:10][c:11]([CH2:12][Cl:13])[cH:14][cH:15][n:16]1>>[C:1]([CH2:2][O:3][C:4]([CH3:5])=[O:6])(=[O:7])[NH:8][c:9]1[cH:10][c:11]([CH2:12][Cl:13])[cH:14][cH:15][n:16]1,[NH2:8][c:9]1[cH:10][c:11]([CH2:12][Cl:13])[cH:14][cH:15][n:16]1.[Cl:101][C:1]([CH2:2][O:3][C:4]([CH3:5])=[O:6])=[O:7]>>[C:1]([CH2:2][O:3][C:4]([CH3:5])=[O:6])(=[O:7])[NH:8][c:9]1[cH:10][c:11]([CH2:12][Cl:13])[cH:14][cH:15][n:16]1,nucleophilic_attack_to_(thio)carbonyl_or_sulfonyl,"[(8, 1), ([1, 7], 7), (7, [7, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
CC(C)(C)OC(=O)[NH:1][CH2:2][CH2:3][NH:4][C:5](=[O:6])[c:7]1[cH:8][cH:9][cH:10][c:11]([CH2:12][S:13][c:14]2[n:15][c:16]([NH2:17])[c:18]([C:19]#[N:20])[c:21](-[c:22]3[cH:23][cH:24][cH:25][cH:26][cH:27]3)[c:28]2[C:29]#[N:30])[cH:31]1>>[NH2:1][CH2:2][CH2:3][NH:4][C:5](=[O:6])[c:7]1[cH:8][cH:9][cH:10][c:11]([CH2:12][S:13][c:14]2[n:15][c:16]([NH2:17])[c:18]([C:19]#[N:20])[c:21](-[c:22]3[cH:23][cH:24][cH:25][cH:26][cH:27]3)[c:28]2[C:29]#[N:30])[cH:31]1,[CH3:202][C:203]([CH3:204])([CH3:205])[O:206][C:101](=[O:201])[NH:1][CH2:2][CH2:3][NH:4][C:5](=[O:6])[c:7]1[cH:8][cH:9][cH:10][c:11]([CH2:12][S:13][c:14]2[n:15][c:16]([NH2:17])[c:18]([C:19]#[N:20])[c:21](-[c:22]3[cH:23][cH:24][cH:25][cH:26][cH:27]3)[c:28]2[C:29]#[N:30])[cH:31]1.[H+:301]>>[NH2:1][CH2:2][CH2:3][NH:4][C:5](=[O:6])[c:7]1[cH:8][cH:9][cH:10][c:11]([CH2:12][S:13][c:14]2[n:15][c:16]([NH2:17])[c:18]([C:19]#[N:20])[c:21](-[c:22]3[cH:23][cH:24][cH:25][cH:26][cH:27]3)[c:28]2[C:29]#[N:30])[cH:31]1,Boc_deprotection,"[(201, 301), ([203, 206], [206, 101]), ([101, 201], 201), (1, 201.1), ([201.1, 201], 201), (201, [201, 101]), ([101, 1], 1), ([202.1, 202], [202, 203])]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O=[C:1]([CH2:4][CH3:5])[CH2:2][CH3:3].[CH3:6][C:7]([CH3:8])([CH3:9])[S:10]([NH2:11])=[O:12]>>[C:1]([CH2:2][CH3:3])([CH2:4][CH3:5])=[N:11][S:10]([C:7]([CH3:6])([CH3:8])[CH3:9])=[O:12],[CH3:6][C:7]([CH3:8])([CH3:9])[S:10]([NH2:11])=[O:12].[O:101]=[C:1]([CH2:2][CH3:3])[CH2:4][CH3:5].[H+:301]>>[C:1]([CH2:2][CH3:3])([CH2:4][CH3:5])=[N:11][S:10]([C:7]([CH3:6])([CH3:8])[CH3:9])=[O:12],imine_formation,"[(11, 1), ([1, 101], 301), (101, 11.1), ([11.1, 11], 11), (11, [11, 1]), ([1, 101], 101), ([11.1, 11], 11)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Cl[C:1]([c:2]1[cH:3][c:4]([O:5][CH3:6])[c:7]([O:8][CH3:9])[c:10]([O:11][CH3:12])[cH:13]1)=[O:14].[CH3:15][CH:16]([CH3:17])[CH2:18][NH2:19]>>[C:1]([c:2]1[cH:3][c:4]([O:5][CH3:6])[c:7]([O:8][CH3:9])[c:10]([O:11][CH3:12])[cH:13]1)(=[O:14])[NH:19][CH2:18][CH:16]([CH3:15])[CH3:17],[Cl:101][C:1]([c:2]1[cH:3][c:4]([O:5][CH3:6])[c:7]([O:8][CH3:9])[c:10]([O:11][CH3:12])[cH:13]1)=[O:14].[CH3:15][CH:16]([CH3:17])[CH2:18][NH2:19]>>[C:1]([c:2]1[cH:3][c:4]([O:5][CH3:6])[c:7]([O:8][CH3:9])[c:10]([O:11][CH3:12])[cH:13]1)(=[O:14])[NH:19][CH2:18][CH:16]([CH3:15])[CH3:17],nucleophilic_attack_to_(thio)carbonyl_or_sulfonyl,"[(19, 1), ([1, 14], 14), (14, [14, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
